* C:\Users\anash\OneDrive\Desktop\New folder\PHz-electronics-UROP-project\memcell_nc_LR_wire.asc
* Generated by LTspice 26.0.2 for Windows.
B1 tpEmtr1 0 V= gaussian_pulse({amp}, 25, {sigdur}, {phase})
C1 N002 btmEmtr1 {Cbody}
Cgap1 0 btmEmtr1 {Cgap}
C2 0 N002 {Cwirebody}
Rbod1 N002 N003 {0.5*(cp+1)*Rbody}
R1 N004 N005 {0.5*(1-cp)*Rbody}
L1 N003 N004 {0.5*(cp+1)*Lbody}
L2 N005 btmEmtr1 {0.5*(1-cp)*Lbody}
R2 N001 tpEmtr1 {Rin}
B2 tpEmtr2 clctr2 V=0
C3 N007 btmEmtr2 {Cbody}
Cgap2 clctr2 btmEmtr2 {Cgap}
C4 clctr2 N007 {Cwirebody}
Rbod2 N007 N008 {0.5*(cp+1)*Rbody}
R3 0 N009 {0.5*(1-cp)*Rbody}
L3 N008 0 {0.5*(cp+1)*Lbody}
L4 N009 btmEmtr2 {0.5*(1-cp)*Lbody}
R4 N006 tpEmtr2 {Rin}
C5 N002 N001 {Cin}
C6 N007 N006 {Cin}
L5 N004 N010 {Lwire}
R5 N010 clctr2 {Rwire}
.tran 0 165 0 0.01
.include config_fit6RLline.yaml
;param cp= -0.95
.step param cp -0.9 0 0.1
.backanno
.end
