* C:\Users\allen\Downloads\Getting started\Getting started\nanoantenna_component_files\Memcell_with_nanoantennav2_copy.asc
R5 N003 N004 {Rwire}
T1 N004 0 N005 0 Td=10.25 Z0={Zin}
B§store1 N001 0 V=gaussian_pulse({amp}, 90, {sigdur}, {phase})
B§read1 N002 readref V= {relAmp}*(gaussian_pulse({amp}, 55, 3, 0) + gaussian_pulse({amp}, 125, 3, 0) +gaussian_pulse({amp}, 190, 3, 0)+gaussian_pulse({amp}, 275, 3, 0))
B§set1 readref N005 V= 1.5*(gaussian_pulse({amp}, 20,{csigdur} , {phase})+gaussian_pulse({amp}, 240,{csigdur} , {phase}))
C7 N005 0 {memcap}
XX1 N001 N003 0 nanoantenna_component params: nanoantenna_component cap_gap_ratio = c_gap_ratio
XX2 N002 P001 N005 nanoantenna_component params: nanoantenna_component cap_gap_ratio = c_gap_ratio
Read P001 0 {ReadRes}

* block symbol definitions
.subckt nanoantenna_component Vin E C
B1 btmEmtr2 C I=ifn(40, 1.5414u, 6.8309, 5.3, V(C, btmEmtr2), 15, 1) + is(10, 0.005f, 290, 5.3, V(C, btmEmtr2), 40*cap_gap_ratio, 1)
C1 N002 btmEmtr2 {Cbody}
Cgap1 C btmEmtr2 {Cgap*cap_gap_ratio}
C2 C N002 {Cwirebody}
Rbod1 N002 N003 {0.5*(cp+1)*Rbody}
R1 E N004 {0.5*(1-cp)*Rbody}
L1 N003 E {0.5*(cp+1)*Lbody}
L2 N004 btmEmtr2 {0.5*(1-cp)*Lbody}
R2 N001 Vin {Rin}
C3 N002 N001 {Cin}
.param Cbody = 0.7089u
.param Lbody = 158200
.param Rbody = 4.0348K
.param freq = 0.28201
.param Cgap = 1.3618u
.param Cwirebody = 0.7488u
.param Lwire = 708593
.param Rwire = 28.75K
.param q = 1
.param epsilon1 = 6.9*0.055263
.param RTline = 6k
.param phi = 5.3
.param Rin = 71.8330K
.param Cin = 49.8910u
.param amp = 10E-12
.param phase = 0.72*pi
.param sigdur = 5.1
.param Zin = 520K
.func fn_v(f) 1 - f + f*ln(f)/6
.func get_f(E) pwr(q, 3)/(4*pi*epsilon1*pwr(phi, 2))*E
.func ifn(A, a, b, phi, vc, d, g) -1E-15*A*a*square(7*g*Efield(vc*1E+12, d))/phi*exp(-b*pwr(phi, 2/3)/(7*g*Efield(vc*1E+12, d))*fn_v(get_f(7*g*Efield(vc*1E+12, d))))
.func Efield(v,d) abs(max(v/d, 0))
.func is(A, alph, T, phi, vc, d, g) -1E-15*A*alph*square(T)*exp(min((-phi +0.5*sqrt((g*Efield(vc*1E+12, d)/(d*3.14*0.055263))/(0.8617u*T)), 0)))
.ends nanoantenna_component

.tran 0 351 0 0.003
.param cp = -0.89
.param ccor = 1
.param Cbody = 0.7089u
.param Lbody = 158200
.param Rbody = 4.0348K
.param freq = 0.26 Cgap =   1.3618u
.param Cwirebody = 0.7488u
.param Lwire = 708593
.param Rwire = 30.0K
.param q = 1
.param epsilon1 = 6.9*0.055263
.param RTline = 6k
.param phi = 5.3
.param Rin = 71.8330K
.param Cin = 49.8910u
.param amp = 1.5e-11 phase = 0.72*pi
.param sigdur = 5.6 csigdur = 4
.param Zin = 520K
.param RelAmp = 0.75
.param memcap = 26u
.param ReadRes = 8k
.func fn_v(f) 1 - f  + f*ln(f)/6
.func get_f(E) pwr(q, 3)/(4*pi*epsilon1*pwr(phi, 2))*E
.func ifn(A, a, b, phi, vc, d, g) -1E-15*A*a*square(7.11*g*Efield(vc*1E+12, d))/phi*exp(-b*pwr(phi, 2/3)/(7.11*g*Efield(vc*1E+12, d))*fn_v(get_f(7.11*g*Efield(vc*1E+12, d))))
.fun Efield(v,d) abs(max(v/d, 0))
.fun is(A, alph, T, phi, vc, d, g) -1E-15*A*alph*square(T)*exp(min((-phi +0.5*sqrt((g*Efield(vc*1E+12, d)/(d*3.14*0.055263))/(0.8617u*T)), 0)))
.func gaussian_pulse(a, b, c, phase) a*exp(-square((time- b)/c)/2)*cos(2*pi*freq*(time - b)-phase)
.param c_gap_ratio = 1
.backanno
.end
