* C:\Users\anash\OneDrive\Desktop\QNN REPO\PHz-electronics-UROP-project\two_coupled_antennas_with_currents.asc
* Generated by LTspice 26.0.2 for Windows.
C1 N002 N004 {ceff*Cbody/(cp+1)}
Cgap1 clctrY btmEmtrY {Cgap}
C2 clctrY N002 {Cwirebody}
Rbod1 N002 N003 {0.5*(cp+1)*Rbody}
R1 N004 N005 {0.5*(1-cp)*Rbody}
L1 N003 N004 {0.5*(cp+1)*Lbody}
L2 N005 btmEmtrY {0.5*(1-cp)*Lbody}
R2 N001 tpEmtrY {Rin}
C3 N002 N001 {1*Cin}
O1 N007 N008 N010 N012 Stub1
O2 N009 N011 N006 N013 roundTline
C5 N010 N012 0.468µ
C6 N004 btmEmtrY {ceff*Cbody/(1-cp)}
C7 N002 N004 {ceff*Cbody/(cp+1)}
C8 N004 btmEmtrY {ceff*Cbody/(1-cp)}
O3 N004 clctrY N007 N008 FudgeLine
O4 N006 N013 N004 clctrY FudgeLine
C4 N016 N015 {ceff*Cbody/(cp+1)}
Cgap2 clctrX btmEmtrX {Cgap}
C9 clctrX N016 {Cwirebody}
Rbod2 N016 N018 {0.5*(cp+1)*Rbody}
R3 N015 N017 {0.5*(1-cp)*Rbody}
L3 N018 N015 {0.5*(cp+1)*Lbody}
L4 N017 btmEmtrX {0.5*(1-cp)*Lbody}
R4 N014 tpEmtrX {Rin}
C10 N016 N014 {1*Cin}
O5 N020 N019 0 N021 Stub2
C11 0 N021 0.468µ
C12 N015 btmEmtrX {ceff*Cbody/(1-cp)}
C13 N016 N015 {ceff*Cbody/(cp+1)}
C14 N015 btmEmtrX {ceff*Cbody/(1-cp)}
O7 N015 clctrX N020 N019 FudgeLine
O8 N011 N009 N015 clctrX FudgeLine
B§YEmissionSrc btmEmtrY clctrY I = 0.99*ifn(2.4E-16, 1.5414u, 6.8309G, 5.3, -1*V(btmEmtrY, clctrY), 65n, 7) + 0.01*is(1.6E-16, 1, 290, 5.3, -1*V(btmEmtrY , clctrY), 65n, 7)
B§XEmissionSrc btmEmtrX clctrX I = 0.99*ifn(2.4E-16, 1.5414u, 6.8309G, 5.3, V(clctrX, btmEmtrX), 65n, 7) + 0.01*is(1.6E-16, 1, 290, 5.3, V(clctrX, btmEmtrX ), 65n, 7)
B4 tpEmtrX clctrX V= gaussian_pulse({ampX}, {105+delt} ,{sigdur}, {freq} , {phase})
B3 tpEmtrY clctrY V= gaussian_pulse({ampY}, 105,{sigdur} , {freq}, {phase})
readout 0 N021 {Rread}
.include config_coupled_ant_7.yaml
.tran 0 575 0 0.007
.opt method=gear abstol=1e-16 reltol=1e-15 gmin=1e-12 Trtol=0.02
.opt chgtol=5e-18 itl1=300 itl2=450 itl4=500 itl5= 800
.func fn_v(f) 1 - f  + f*ln(f)/6
.func get_f(E) pwr(q, 3)/(4*pi*epsilon1*pwr(phi, 2))*E
.func ifn(A, a, b, phi, vc, d, g) -1E-15*A*a*square(g*Efield(vc*1E+12, d))/phi*exp(limit(-b*pwr(phi, 3/2)/(g*Efield(vc*1E+12, d))*fn_v(get_f(g*Efield(vc*1E+12, d))), -160, 160))
.func gaussian_pulse(a, b, c, freq, phase)  a*exp(-square((time- b)/c)/2)*cos(2*pi*freq*(time - b)-phase)
.func Efield(v,d) abs(max(v/d, 1E-18))
.func is(A, alph, T, phi, vc, d, g) -1E-15*A*alph*square(T)*exp(limit((-phi +0.5*sqrt(g*Efield(vc*1E+12, d)/(pi*epsilon0)))/(Kb*T), -160, 160))
.param ampY = 23E-12
.param ampX = 11.2E-12
.step param delt 10.25 15 0.25
.param Rread = 448k
.param freq = 0.28201
.param ceff = 0.57
.model roundTline LTRA(len={1.12*1.513u} R={200G} L=5.791T C=13.3)
.model FudgeLine LTRA(len={0.075u} R={200G} L=5.791T C=13.3)
.model Stub1 LTRA(len={1.14*0.2u} R={200G} L=5.791T C=13.3)
.model Stub2 LTRA(len={leff*0.2u} R={200G} L=5.791T C=13.3)
.param cp =-0.71
.param leff=1.2
.backanno
.end
