

O1 N001 N008 N004 N006 Stub1
O2 N002 N005 N003 N007 roundTline
C4 N004 N006 0.468µ
O5 N010 N009 0 N011 Stub2
C11 0 N011 0.468µ
readout1 0 N011 {Rread}
X§X1 N003 N007 N001 N008 single_antenna_normalized params: amp = {ampY} del = 105 phase = {phaseTop} sigdur = {sigdurTop} d = {dTop}
X§X2 N005 N002 N010 N009 single_antenna_normalized params: amp = {ampX} del = {105 + delt} phase = {phaseTop} sigdur = {sigdurTop} d = dTop

* block symbol definitions
.subckt single_antenna_normalized E2 C2 E1 C1
C1 N002 N004 {ceff*Cbody_norm/(cp+1)}
Cgap1 clctr1 btmEmtr1 {Cgap_norm}
C2 clctr1 N002 {Cwirebody_norm}
Rbod1 N002 N003 {0.5*(cp+1)*Rbody_norm}
R1 N004 N005 {0.5*(1-cp)*Rbody_norm}
L1 N003 N004 {0.5*(cp+1)*Lbody_norm} Rser=1m
L2 N005 btmEmtr1 {0.5*(1-cp)*Lbody_norm} Rser=1m
R2 N001 tpEmtr1 {Rin_norm}
C3 N002 N001 {1*Cin_norm}
C4 N004 btmEmtr1 {ceff*Cbody_norm/(1-cp)}
C5 N002 N004 {ceff*Cbody_norm/(cp+1)}
C6 N004 btmEmtr1 {ceff*Cbody_norm/(1-cp)}
O1 N004 clctr1 E1 C1 FudgeLine
O2 E2 C2 N004 clctr1 FudgeLine
B1 tpEmtr1 clctr1 V= gaussian_pulse({amp}, {del}, {sigdur} , {freq}, {phase})
B§EmissionSrc1 btmEmtr1 clctr1 I = 0.99*ifn(2.4E-16, 1.5414u, 6.8309G, 5.3, -1*V(btmEmtr1, clctr1), d, 7) + 0.01*is(1.6E-16, 1, 290, 5.3, -1*V(btmEmtr1 , clctr1), d, 7)
.include config_realunits.yaml
.param cp =-0.71
.func gaussian_pulse(a, b, c, freq, phase)  a*exp(-square((time- b)/c)/2)*cos(2*pi*freq*(time - b)-phase)
.param del = 30
.param freq =  0.28201
.model FudgeLine LTRA(len={0.075u} R={200G} L=5.791T C=13.3)
.param ceff = 0.57
.func fn_v(f) 1 - f  + f*ln(f)/6
.func get_f(E) pwr(q, 3)/(4*pi*epsilon1*pwr(phi, 2))*E
.func ifn(A, a, b, phi, vc, d, g) -1E-15*A*a*square(g*Efield(vc*1E+12, d))/phi*exp(limit(-b*pwr(phi, 3/2)/(g*Efield(vc*1E+12, d))*fn_v(get_f(g*Efield(vc*1E+12, d))), -160, 160))
.func Efield(v,d) abs(max(v/d, 1E-18))
.func is(A, alph, T, phi, vc, d, g) -1E-15*A*alph*square(T)*exp(limit((-phi +0.5*sqrt(g*Efield(vc*1E+12, d)/(pi*epsilon0)))/(Kb*T), -160, 160))
.param Cbody_norm = {Cbody}*1e12
.param Cin_norm = {Cin}*1e12
.param Cgap_norm = {Cgap}*1e12
.param Cwirebody_norm = {Cwirebody}*1e12
.param Lbody_norm = {Lbody}*1e18
.param Rbody_norm = {Rbody}*1e3
.param Rin_norm = {Rin}*1e3
.ends single_antenna_normalized

.tran 0 260 120 0.007
.param delt = 3
.param Rread = 448k
.param leff=1.2
.include config_coupled_subckt.yaml
.model roundTline LTRA(len={1.12*1.513u} R={200G} L=5.791T C=13.3)
.model Stub1 LTRA(len={1.14*0.2u} R={200G} L=5.791T C=13.3)
.model Stub2 LTRA(len={leff*0.2u} R={200G} L=5.791T C=13.3)
.opt method=gear abstol=1e-16 reltol=1e-15 gmin=1e-12 Trtol=0.02
.opt chgtol=5e-18 itl1=300 itl2=450 itl4=500 itl5= 800
.param ampY = 3.54E-4*dTop
.param ampX = 1.73E-4*dTop
.param phaseTop = 0.72*pi
.param sigdurTop = 5.1
.param dTop = 65n
.backanno
.end

